US04152441
To a solution of 10.0 g. (0.03 mol) of α-(o-tert.-butylphenyl)-α-phenyl-1-vinylimidazole-2-methanol in 180 ml. of pyridine and 180 ml. of 0.5 N methanolic sodium hydroxide, 360 ml. of a 4% aqueous potassium permanganate solution were added drop-wise at 20° to 30° C. After the addition was completed, 4.8 g. of solid potassium permanganate were added (total permanganate 0.12 mol). The manganese dioxide was filtered off. The filtrate was treated with active charcoal, concentrated almost to complete dryness and poured into water. The solid substance was filtered off, dissolved in warm acetone, decolorised with active charcoal and precipitated by addition of water. The precipitate was recrystallised from a mixture of acetone and water. α-(o-tert.-Butylphenyl)-α-phenylimidazole-2-methanol was obtained. Melting point 185°-186° C.

reactant | α-(o-tert.-butylphenyl)-α-phenyl-1-vinylimidazole-2-methanol | 0.03 mol | C(C)(C)(C)C1=C(C=CC=C1)C(O)(C=1N(C=CN1)C=C)C1=CC=CC=C1 | C22H24N2O
reactant | sodium hydroxide | 0.5 N | [OH-].[Na+]
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | permanganate | 0.12 mol | [Mn](=O)(=O)(=O)[O-]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | α-(o-tert.-Butylphenyl)-α-phenylimidazole-2-methanol | C(C)(C)(C)C1=C(C=CC=C1)C(O)(C=1NC=CN1)C1=CC=CC=C1 | C20H22N2O
